US08859814B2
N-{3-(2-bromophenyl)-1-[(4-methylpiperidin-1-yl)carbonyl]propyl}-1H-indole-4-sulfonamide
Example 67 is subsequently prepared from tert-butyl{3-(2-bromophenyl)-1-[(4-methylpiperidin-1-yl)carbonyl]propyl}carbamate and indole-4-sulfonyl chloride in the same manner that Example 5 is synthesized. ESI MS Calc. 517.1; Found: 518.2 (M+H)+.

reactant | tert-butyl{3-(2-bromophenyl)-1-[(4-methylpiperidin-1-yl)carbonyl]propyl}carbamate | C(C)(C)(C)OC(NC(CCC1=C(C=CC=C1)Br)C(=O)N1CCC(CC1)C)=O | C21H31BrN2O3
reactant | indole-4-sulfonyl chloride | N1C=CC=2C(=CC=CC12)S(=O)(=O)Cl | C8H6ClNO2S
product | N-{3-(2-bromophenyl)-1-[(4-methylpiperidin-1-yl)carbonyl]propyl}-1H-indole-4-sulfonamide | BrC1=C(C=CC=C1)CCC(C(=O)N1CCC(CC1)C)NS(=O)(=O)C=1C=2C=CNC2C=CC1 | C24H28BrN3O3S
